US07910612B2
42.9 g 4-Acetoxy-benzenesulfonic acid sodium salt were suspended in 135 ml thionyl chloride. Then 0.5 ml dimethylformamide were added. The reaction mixture was heated under reflux for one hour. The cooled reaction mixture was evaporated in vacuo. The residue was coevaporated with 600 ml toluene twice. The residue was suspended in 500 ml dichloromethane and stirred at room temperature for thirty minutes. The suspension was filtered and the filtrate reduced in vacuo to one fifth of its volume. To this stirred solution 400 ml n-heptane were added dropwise and acetic acid 4-chlorosulfonyl-phenyl ester precipitated as a white solid. The precipitate was filtered off and dried in vacuo to obtain 40.4 g acetic acid 4-chlorosulfonyl-phenyl ester.

reactant | 4-Acetoxy-benzenesulfonic acid sodium salt | 42.9 g | [Na+].C(C)(=O)OC1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 135 ml | S(=O)(Cl)Cl | Cl2OS
product | acetic acid 4-chlorosulfonyl-phenyl ester | 40.4 g | ClS(=O)(=O)C1=CC=C(C=C1)OC(C)=O | C8H7ClO4S
